US05998481
Preparation of the Grignard compound of 4-chloro-α-methylstyrene by means of Rieke magnesium in THF under reflux and subsequent reaction with 0.95 equivalents of methyl chloroformate at RT. Aqueous working up, extraction with ethyl acetate and column chromatography using cyclohexane/ethyl acetate 85:15 affords methyl 4-isopropenylbenzoate as colorless crystals.

reactant | 4-chloro-α-methylstyrene | ClC1=CC=C(C(=C)C)C=C1 | C9H9Cl
reactant | magnesium | [Mg] | Mg
reactant | methyl chloroformate | 0.95 equivalents | ClC(=O)OC | C2H3ClO2
solvent | THF | C1CCOC1 | C4H8O
product | methyl 4-isopropenylbenzoate | C(=C)(C)C1=CC=C(C(=O)OC)C=C1 | C11H12O2
